US07312225B2
8b) Production of 4-Amino-2-[4-(5-bromo-2-chloro-pyrimidin-4-ylamino)-butoxy]-benzenesulfonamide
A solution of 160 mg (0.33 mmol) of 2-[4-(5-bromo-2-chloro-pyrimidin-4-ylamino)-butoxy]-4-nitro-benzenesulfonamide in 10 ml of THF is mixed under argon at room temperature with 1.4 ml of a 15% solution of Ti(III)Cl in approximately 10% hydrochloric acid. After 4 hours, the reaction solution is again mixed with 0.2 ml of the Ti(III)Cl solution and stirred for another 14 hours. The batch is made basic with 2N NaOH solution and then filtered. The filter cake is rewashed 2× with 50 ml of ethyl acetate/MeOH (30 ml/20 ml) in each case. The filtrate is concentrated by evaporation in a rotary evaporator and then extracted with ethyl acetate (2×). The combined organic phases are washed with NaCl solution, dried (MgSO4), filtered and concentrated by evaporation. The remaining residue is purified by chromatography (dichloromethane/methanol 9:1; Flashmaster II). 70 mg (0.81 mmol, corresponding to 47% of theory) of the product is obtained.

reactant | 2-[4-(5-bromo-2-chloro-pyrimidin-4-ylamino)-butoxy]-4-nitro-benzenesulfonamide | 0.33 mmol, 160 mg | BrC=1C(=NC(=NC1)Cl)NCCCCOC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)N | C14H15BrClN5O5S
reactant | NaOH | 2N | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | hydrochloric acid | Cl | ClH
product | 4-Amino-2-[4-(5-bromo-2-chloro-pyrimidin-4-ylamino)-butoxy]-benzenesulfonamide | NC1=CC(=C(C=C1)S(=O)(=O)N)OCCCCNC1=NC(=NC=C1Br)Cl | C14H17BrClN5O3S
